US09029560B2
Preparation of ethyl 3-(2-fluoro-4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate (CB16)
The title compound was prepared from (E)-ethyl 3-(2-fluoro-4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (CB13) using palladium hydroxide on carbon and ethanol as solvent; isolated as a tan solid (0.871 g, 67%, 85% pure): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 7.92-7.82 (m, 2H), 7.79 (d, J=9.0 Hz, 2H), 7.43-7.36 (m, 2H), 7.32 (t, J=7.8 Hz, 1H), 4.14 (q, J=7.1 Hz, 2H), 3.03 (t, J=7.7 Hz, 2H), 2.67 (dd, J=8.2, 7.2 Hz, 2H), 1.24 (t, J=7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ (376 MHz, CDCl3) δ −58.03, −117.98; ESIMS m/z 423 ([M]+).

reactant | (E)-ethyl 3-(2-fluoro-4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | FC1=C(C=CC(=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)/C=C/C(=O)OCC | C20H15F4N3O3
solvent | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-(2-fluoro-4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate | FC1=C(C=CC(=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)CCC(=O)OCC | C20H17F4N3O3
